US07732460B2
(i) 3,8-Difluoro-4-methylidene-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-7-one
A mixture of 8-[1-(chloromethyl)ethenyl]-3,7-difluoro-2-(methyloxy)-1,5-naphthyridine (320 mg, 1.18 mmol) and sodium iodide (885 mg) in acetonitrile (20 ml) was heated to reflux for 20 hours. The cooled mixture was evaporated then diluted with water and extracted with dichloromethane. The organic extracts were dried over magnesium sulphate and evaporated. The residue was chromatographed on silica eluting with a gradient of 0-100% ethyl acetate in hexane affording product (168 mg, 65%).

reactant | 8-[1-(chloromethyl)ethenyl]-3,7-difluoro-2-(methyloxy)-1,5-naphthyridine | 1.18 mmol, 320 mg | ClCC(=C)C=1C(=CN=C2C=C(C(=NC12)OC)F)F | C12H9ClF2N2O
reactant | sodium iodide | 885 mg | [I-].[Na+]
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 3,8-Difluoro-4-methylidene-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-7-one | FC=1C=NC=2C=C(C(N3C2C1C(C3)=C)=O)F | C11H6F2N2O
